US04486434
5-Nitro-2-(3-cyanopropyl)-3-methylpyridine (5.9 g) was hydrogenated in ethanol (150 ml) with palladium on charcoal (0.59 g of 10%) at 140 kPa, for 2.5 hrs. The filtered solution was concentrated to dryness, the residue was triturated with ether to give 5-amino-2-(3-cyanopropyl)-3-methylpyridine (4.70 g) m.p. 103°-105° C.

reactant | 5-Nitro-2-(3-cyanopropyl)-3-methylpyridine | 5.9 g | [N+](=O)([O-])C=1C=C(C(=NC1)CCCC#N)C | C10H11N3O2
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.59 g | [Pd] | Pd
product | 5-amino-2-(3-cyanopropyl)-3-methylpyridine | 4.70 g | NC=1C=C(C(=NC1)CCCC#N)C | C10H13N3
